.SUBCKT irlml9301trpbf 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK 
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Sept 02, 10
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-2.36102 LAMBDA=0.0642611 KP=6.30745
+CGSO=3.35956e-06 CGDO=3.55018e-07
RS 8 3 0.0238912
D1 1 3 MD
.MODEL MD D IS=3.82078e-11 RS=0.0108136 N=1.1398 BV=30
+IBV=0.00025 EG=1.2 XTI=4 TT=1e-07
+CJO=1.15607e-10 VJ=4.96889 M=0.868062 FC=0.468925
RDS 3 1 1e+08
RD 9 1 0.0001
RG 2 7 11.5798
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.05781e-10 VJ=0.5 M=0.568348 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4005 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 4.48234e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4005
.ENDS irlml9301trpbf


*SPICE Thermal Model Subcircuit
.SUBCKT irlml9301trpbft 5 1

R_RTHERM1         5 4  6.0565349
R_RTHERM2         4 3  42.170179
R_RTHERM3         3 2  33.134799
R_RTHERM4         2 1  18.526124
C_CTHERM1         5 1  0.000124
C_CTHERM2         4 1  0.005292
C_CTHERM3         3 1  0.042290
C_CTHERM4         2 1  0.001162

.ENDS irlml9301trpbft



